US06977263B2
4-Hydroxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester (15.94 g, 52.5 mmol) was dissolved in anhydrous THF (150 mL) under nitrogen and cooled at −78° C. during the addition of sodium bis(trimethylsilyl)amide (1M in THF; 68 mL, 68 mmol) via cannula. After stirring for 30 minutes at this temperature a solution of N-phenyltrifluoromethanesulfonimide (22.42 g, 62.8 mmol) in THF (230 mL) was added dropwise via cannula. The reaction mixture was stirred at this temperature for 10 minutes before warming to 0° C. and stirring for 2 hours. After 48 h the reaction mixture was quenched with water, extracted into DCM, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel (eluent; ethyl acetate:pentane=4:1) to give 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester as colorless oil (18.59 g, 81%). This material decomposed to a deep red material upon standing so was stored under nitrogen at 0° C. in the dark. MS (EI) 437 (M+).

reactant | 4-Hydroxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester | 52.5 mmol, 15.94 g | C(C)OC(=O)C=1CN(CCC1O)C(=O)OCC1=CC=CC=C1 | C16H19NO5
reactant | sodium bis(trimethylsilyl)amide | 68 mmol, 1M, 68 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | N-phenyltrifluoromethanesulfonimide | 62.8 mmol, 22.42 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 230 mL | C1CCOC1 | C4H8O
product | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-benzyl ester 3-ethyl ester | 18.59 g, 81% | C(C)OC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C17H18F3NO7S
